### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/NerveAdjunction): nerve adjunction infrastructure

### PR DESCRIPTION
**Pull request by digama0**
This develops preliminaries for the construction of the adjunction between the 2-truncated nerve and the 2-truncated homotopy category functor. The key technical result is `toNerve₂.mk` and `toNerve₂.ext`, which demonstrates that a map of 2-truncated simplicial sets valued in a 2-truncated nerve is determined uniquely by the underlying refl prefunctor provided a composition hypothesis is met. 

---

This supports #16784. 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by emilyriehl** [comment]
The comment at the header of the new file better reflects what will be done in #16784 than what is done here (preliminary work that is not useful on its own). If this is objectionable, let me know, and I'll replace this with something stubby.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 1]
```diff
@@ -0,0 +1,341 @@
...
+theorem toNerve₂.mk_naturality {X : SSet.Truncated.{u} 2} {C : Cat}
+    (F : SSet.oneTruncation₂.obj X ⟶ ReflQuiv.of C)
+    (hyp : (φ : X _[2]₂) →
+      F.map (ev02₂ φ) =
+        CategoryStruct.comp (obj := C) (F.map (ev01₂ φ)) (F.map (ev12₂ φ))) :
+    (MorphismProperty.naturalityProperty (fun n => toNerve₂.mk.app F n.unop)).unop = ⊤ := by
+  set OK := (MorphismProperty.naturalityProperty (fun n => toNerve₂.mk.app F n.unop)).unop
+  have σ00 : OK (σ₂ (n := 0) 0) := by
+    ext x
+    dsimp only [Nat.reduceAdd, types_comp_apply, mk.app_one]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:153]: Could you declare an abbrev for `(MorphismProperty.naturalityProperty (fun n => toNerve₂.mk.app F n.unop)).unop` and state the sequence of `have _ : OK ... := ...` in the proof as separate lemmas (maybe `mk_naturality_aux₁/₂/₃`

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 2]
```diff
@@ -0,0 +1,373 @@
...
+        exact (toNerve₂.mk.naturalityProperty F).comp_mem _ _
+          (toNerve₂.mk_naturality_σ00 F) (toNerve₂.mk_naturality_δ0i F _)
+      · conv_rhs => apply δ_comp_σ_succ' (by decide)
+        exact (toNerve₂.mk.naturalityProperty F).id_mem _
+    · exact hyp
+  · unfold δ0₂
+    rw [← toNerve₂.mk_naturality_δ1i, ← assoc, ← map_comp, ← op_comp]
+    change toNerve₂.mk.naturalityProperty F (δ₂ 0 ≫ σ₂ i)
+    · fin_cases i <;> dsimp only [Fin.zero_eta, Fin.isValue, Fin.mk_one]
+      · conv_rhs => apply δ_comp_σ_self
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:276]: Some lemmas like `δ₂_zero_comp_σ₂_zero` were introduced in the file `SimplicialSet.HomotopyCat`. That API should be expanded so that we may just use a basic `rw` here and in a few other places.

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:276]: Anyway the easiest thing would certainly be to just add these lemmas, so I can do this for now. But maybe in the future we want to reconsider whether we can deploy the general `SimplexCategory` morphism infrastructure more effectively in truncated settings.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 3]
```diff
@@ -0,0 +1,373 @@
...
+maps in `SimplexCategory.Truncated 2).` -/
+abbrev toNerve₂.mk.naturalityProperty {X : SSet.Truncated.{u} 2} {C : Cat}
+    (F : SSet.oneTruncation₂.obj X ⟶ ReflQuiv.of C) :
+    MorphismProperty (SimplexCategory.Truncated 2) :=
+  (MorphismProperty.naturalityProperty (fun n => toNerve₂.mk.app F n.unop)).unop
+
+lemma toNerve₂.mk_naturality_σ00 {X : SSet.Truncated.{u} 2} {C : Cat}
+    (F : SSet.oneTruncation₂.obj X ⟶ ReflQuiv.of C) :
+    toNerve₂.mk.naturalityProperty F (σ₂ (n := 0) 0) := by
+  ext x
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:153]: There is probably some missing API here. First, I think you should add lemmas like this one, about the faces/degeneracies of the nerve in low degrees:
```lean
lemma nerve.σ_zero_eq_mk_id {C : Type u} [SmallCategory C] (x : C) :
    (nerve C).σ (0 : Fin 1) (.mk₀ x) = .mk₁ (𝟙 x) :=
  ComposableArrows.ext₁ rfl rfl (by dsimp [nerve]; aesop)
```
Using this one, I can make some progress in the proof of this lemma:
```lean
lemma toNerve₂.mk_naturality_σ00 {X : SSet.Truncated.{u} 2} {C : Cat}
    (F : SSet.oneTruncation₂.obj X ⟶ ReflQuiv.of C) :
    toNerve₂.mk.naturalityProperty F (σ₂ (n := 0) 0) := by
  ext x
  refine Eq.trans ?_ (nerve.σ_zero_eq_mk_id (C := C) (F.obj x)).symm
  have := ReflPrefunctor.map_id F x
  dsimp at this ⊢
  rw [← this]
  simp only [← OneTruncation₂.id_edge x]
  sorry
```
With suitable API, I think this goal could be closed in a relatively clean manner.
It is probably that similar arguments may help for the other cases.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:276]: `conv => apply` is very rarely used in mathlib. If we can make `rw` work, it is certainly a better option. If it works in these proofs, introducing general lemmas `SimplexCategory.Truncated.δ/σ_comp_δ/σ` which parallel the similar lemmas from the `SimplexCategory` namespace would be a good option, but adding for some ad hoc lemmas specifically for the `2`-truncated case is also an acceptable option IMO. (The larger issue is that our API for full subcategories is not very satisfactory at the moment...)

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 4]
```diff
@@ -0,0 +1,373 @@
...
+set_option quotPrecheck false
+local macro:max (priority := high) "[" n:term "]₂" : term =>
+  `((⟨SimplexCategory.mk $n, by decide⟩ : SimplexCategory.Truncated 2))
+
+local macro:1000 (priority := high) X:term " _[" n:term "]₂" : term =>
+    `(($X : SSet.Truncated 2).obj (Opposite.op ⟨SimplexCategory.mk $n, by decide⟩))
+
+/-- The components of the counit of `nerve₂Adj`. -/
+@[simps!]
+def nerve₂Adj.counit.app (C : Cat.{u, u}) :
```
[the remark this answers is not in the document]
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done. BTW one effect is a proliferation of `nerveFunctor₂.obj (Cat.of C)`. In a previous draft we had defined 
```nerve₂ C := nerveFunctor₂.obj (Cat.of C)```
which would fit in more naturally with these auxiliary lemmas but I remember this being annoying to work with because ultimately we're trying to define functors and natural transformations involving `Cat.{u,u}`. For a small illustration note that the previous def
```
def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ (𝟭 Cat) where
  app := nerve₂Adj.counit.app
  naturality := nerve₂Adj.counit.naturality
```
is now
```
def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ (𝟭 Cat) where
  app := fun _ ↦ nerve₂Adj.counit.app (Cat.of _)
  naturality := fun _ _ F ↦ nerve₂Adj.counit.naturality F
```
which isn't the end of the world, but I remember this being more of an annoyance in proofs.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 2 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: @digama0 I mostly completed this but it could use a little golfing in the `HomotopyCategory.lean` file. 

The following two lemmas should be combinable
```
/-- Abbreviations for face maps in the 2-truncated simplex category. -/
abbrev δ₂ {n} (i : Fin (n + 2)) (hn := by decide) (hn' := by decide) :
    (⟨⦋n⦌, hn⟩ : SimplexCategory.Truncated 2) ⟶ ⟨⦋n + 1⦌, hn'⟩ := SimplexCategory.δ i

/-- Abbreviations for degeneracy maps in the 2-truncated simplex category. -/
abbrev σ₂ {n} (i : Fin (n + 1)) (hn := by decide) (hn' := by decide) :
    (⟨⦋n+1⦌, hn⟩ : SimplexCategory.Truncated 2) ⟶ ⟨⦋n⦌, hn'⟩ := SimplexCategory.σ i

@[reassoc (attr := simp)]
lemma δ₂_zero_comp_σ₂_zero : δ₂ (0 : Fin 2) ≫ σ₂ 0 = 𝟙 _ := SimplexCategory.δ_comp_σ_self

@[reassoc (attr := simp)]
lemma δ₂_zero_comp_σ₂_zero' : δ₂ (0 : Fin 3) ≫ σ₂ 0 = 𝟙 _ := SimplexCategory.δ_comp_σ_self
```
The first is the case `n := 0` and the second is the case `n := 1`. But I was having a bit of trouble stating the hypothesis `hn` correctly.

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Similarly for
```
@[reassoc (attr := simp)]
lemma δ₂_one_comp_σ₂_zero : δ₂ (1 : Fin 2) ≫ σ₂ 0 = 𝟙 _ := SimplexCategory.δ_comp_σ_succ

@[reassoc (attr := simp)]
lemma δ₂_one_comp_σ₂_zero' : δ₂ (1 : Fin 3) ≫ σ₂ 0 = 𝟙 _ := SimplexCategory.δ_comp_σ_succ
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 5]
```diff
@@ -0,0 +1,379 @@
...
+@[simp]
+theorem nerve₂Adj.counit.app_eq (C : Type u) [SmallCategory C] :
+    SSet.Truncated.HomotopyCategory.quotientFunctor (nerveFunctor₂.obj (Cat.of C)) ⋙
+      nerve₂Adj.counit.app.{u} C =
+    (whiskerRight OneTruncation₂.ofNerve₂.natIso.hom _ ≫
+      ReflQuiv.adj.{u}.counit).app (Cat.of C) := rfl
+
+/-- Naturality of `nerve₂Adj.counit.app` is proven using `HomotopyCategory.lift_unique'`. -/
+theorem nerve₂Adj.counit.naturality ⦃C D : Type u⦄ [SmallCategory C] [SmallCategory D]
+    (F : (Cat.of C) ⟶ (Cat.of D)) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:72]: Similarly as I suggested replacing `C : Cat` by `(C : Type u) [SmallCategory C]`, the morphism `F` should be replaced by a functor from `C` to `D`.

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:72]: I tried this but then couldn't complete the proof.

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:72]: I'll push this version but see the use of `F'` here:
```
/-- Naturality of `nerve₂Adj.counit.app` is proven using `HomotopyCategory.lift_unique'`. -/
theorem nerve₂Adj.counit.naturality ⦃C D : Type u⦄ [SmallCategory C] [SmallCategory D]
    (F : C ⥤ D) :
    (nerveFunctor₂ ⋙ hoFunctor₂).map F ⋙ nerve₂Adj.counit.app D =
      nerve₂Adj.counit.app C ⋙ F := by
  apply HomotopyCategory.lift_unique'
  conv => lhs; rw [← Functor.assoc]; lhs; apply (hoFunctor₂_naturality _).symm
  simp only [Cat.freeRefl_obj_α, ReflQuiv.of_val, comp_obj, Functor.comp_map]
  rw [← Functor.assoc _ _ F]
  conv => rhs; lhs; exact (nerve₂Adj.counit.app_eq C)
  let F' : (Cat.of C) ⟶ (Cat.of D) := F
  conv => rhs; exact ((whiskerRight OneTruncation₂.ofNerve₂.natIso.hom Cat.freeRefl ≫
    ReflQuiv.adj.counit).naturality F').symm
  simp only [app, Cat.comp_eq_comp, Functor.comp_map, Functor.assoc,
    SSet.Truncated.HomotopyCategory.quotientFunctor]
  rw [Quotient.lift_spec]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 3 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: I was able to complete this case, though I wouldn't say this is `clean` yet. On the other hands, this is part of the infrastructure that will almost certainly get cut once we can generalize `toNerve₂.mk` to 2-truncated strict Segal things.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: I found this:
```lean
universe v' u'

lemma ReflPrefunctor.congr_mk₁_map
    {Y : Type u'} [ReflQuiver.{v'} Y] {C : Type u} [Category.{v} C]
    (F : ReflPrefunctor Y (ReflQuiv.of C))
    {x₁ y₁ x₂ y₂ : Y} (f : x₁ ⟶ y₁) (g : x₂ ⟶ y₂)
    (hx : x₁ = x₂) (hy : y₁ = y₂) (hfg : Quiver.homOfEq f hx hy = g):
    ComposableArrows.mk₁ (C := C) (F.map f) =
      ComposableArrows.mk₁ (C := C) (F.map g) := by
  subst hx hy
  obtain rfl : f = g := by simpa using hfg
  rfl

@[simp]
lemma _root_.SSet.OneTruncation₂.homOfEq_edge
    {X : SSet.Truncated.{u} 2} {x₁ y₁ x₂ y₂ : OneTruncation₂ X}
      (f : x₁ ⟶ y₁) (hx : x₁ = x₂) (hy : y₁ = y₂) :
      (Quiver.homOfEq f hx hy).edge = f.edge := by
  subst hx hy
  rfl

lemma toNerve₂.mk_naturality_σ00 {X : SSet.Truncated.{u} 2} {C : Type u} [SmallCategory C]
    (F : SSet.oneTruncation₂.obj X ⟶ ReflQuiv.of C) :
    toNerve₂.mk.naturalityProperty F (σ₂ (n := 0) 0) := by
  ext x
  refine Eq.trans ?_ (nerve.σ_zero_eq_mk_id (C := C) (F.obj x)).symm
  have := ReflPrefunctor.map_id F x
  dsimp at this ⊢
  rw [← this, ← OneTruncation₂.id_edge x]
  fapply ReflPrefunctor.congr_mk₁_map
  · simp [← FunctorToTypes.map_comp_apply, ← op_comp]
  · simp [← FunctorToTypes.map_comp_apply, ← op_comp]
  · aesop
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 5 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: This is probably because the naturality property that is used was stated only in terms of `Cat`. Ideally, this should have first been stated in the "unbundled context" (types with quiver/category structures rather than terms in `Cat/ReflQuiv/etc`), but there is no need to fix that now, I would say.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 3 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Thanks. I wrote a few lemmas to attempt to simplify the last bad case `toNerve₂.mk_naturality_δ1i` which I left in the same file so you can see whether you like them. These are the `nerve_δ2i`.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 1 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 6]
```diff
@@ -0,0 +1,349 @@
...
+
+@[simp]
+theorem nerve₂Adj.counit.app_eq (C : Type u) [SmallCategory C] :
+    SSet.Truncated.HomotopyCategory.quotientFunctor (nerveFunctor₂.obj (Cat.of C)) ⋙
+      nerve₂Adj.counit.app.{u} C =
+    (whiskerRight OneTruncation₂.ofNerve₂.natIso.hom _ ≫
+      ReflQuiv.adj.{u}.counit).app (Cat.of C) := rfl
+
+/-- Naturality of `nerve₂Adj.counit.app` is proven using `HomotopyCategory.lift_unique'`. -/
+theorem nerve₂Adj.counit.naturality ⦃C D : Type u⦄ [SmallCategory C] [SmallCategory D]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:71]: This syntax is more common in mathlib:
```suggestion
theorem nerve₂Adj.counit.naturality {C D : Type u} [SmallCategory C] [SmallCategory D]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 7]
```diff
@@ -0,0 +1,349 @@
...
+  conv => rhs; exact ((whiskerRight OneTruncation₂.ofNerve₂.natIso.hom Cat.freeRefl ≫
+    ReflQuiv.adj.counit).naturality F').symm
+  simp only [app, Cat.comp_eq_comp, Functor.comp_map, Functor.assoc,
+    SSet.Truncated.HomotopyCategory.quotientFunctor]
+  rw [Quotient.lift_spec]
+
+/-- The counit of `nerve₂Adj.` -/
+def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ (𝟭 Cat) where
+  app := fun _ ↦ nerve₂Adj.counit.app (Cat.of _)
+  naturality := fun _ _ F ↦ nerve₂Adj.counit.naturality F
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:90]: It is advisable to use the `where` syntax:
```suggestion
  app C := nerve₂Adj.counit.app (Cat.of C)
  naturality _ _ F := nerve₂Adj.counit.naturality F
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 8]
```diff
@@ -0,0 +1,349 @@
...
+instance (C : Type u) [Category C] : Mono (nerve₂.seagull C) where
+  right_cancellation {X} (f g : X → ComposableArrows C 2) eq := by
+    ext x
+    simp [nerve₂.seagull] at eq
+    have eq1 := congr($eq ≫ prod.fst)
+    have eq2 := congr($eq ≫ prod.snd)
+    simp at eq1 eq2
+    replace eq1 := congr_fun eq1 x
+    replace eq2 := congr_fun eq2 x
+    simp at eq1 eq2
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:133]: Non-terminal `simp` have to be squeezed, using `simp?`.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 9]
```diff
@@ -0,0 +1,349 @@
...
+
+/-- Naturality of the components defined by `toNerve₂.mk.app` as a morphism property of
+maps in `SimplexCategory.Truncated 2).` -/
+abbrev toNerve₂.mk.naturalityProperty : MorphismProperty (SimplexCategory.Truncated 2) :=
+  (MorphismProperty.naturalityProperty (fun n => toNerve₂.mk.app F n.unop)).unop
+
+lemma nerve.σ_zero_eq_mk_id (x : C) : (nerve C).σ (0 : Fin 1) (.mk₀ x) = .mk₁ (𝟙 x) :=
+  ComposableArrows.ext₁ rfl rfl (by simp; rfl)
+
+lemma ReflPrefunctor.congr_mk₁_map
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:151]: This should be moved to another file, maybe `ComposableArrows.lean`.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 10]
```diff
@@ -0,0 +1,349 @@
...
+
+lemma toNerve₂.mk_naturality_δ0i (i : Fin 2) : toNerve₂.mk.naturalityProperty F (δ₂ i) := by
+  ext x
+  apply ComposableArrows.ext₀
+  fin_cases i <;> rfl
+
+section
+variable {X₀ X₁ X₂ : C} (f : X₀ ⟶ X₁) (g : X₁ ⟶ X₂)
+
+theorem nerve_δ22 : (nerve C).map (δ 2).op (ComposableArrows.mk₂ f g) = ComposableArrows.mk₁ f :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:178]: This should go in `Nerve.lean`.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 11]
```diff
@@ -0,0 +1,349 @@
...
+  unfold δ₂ inclusion
+  simp only [fullSubcategoryInclusion.map]
+  fin_cases i
+  · simp only [Fin.zero_eta]
+    rw [nerve_δ20]
+    fapply ReflPrefunctor.congr_mk₁_map
+    · unfold ev1₂ ι1₂ δ₂
+      simp [← FunctorToTypes.map_comp_apply, ← op_comp]
+      have := δ_comp_δ (n := 0) (i := 0) (j := 1) (by decide)
+      simp at this
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:212]:
```suggestion
      simp only [← FunctorToTypes.map_comp_apply, ← op_comp]
      have := δ_comp_δ (n := 0) (i := 0) (j := 1) (by decide)
      dsimp at this
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 12]
```diff
@@ -0,0 +1,349 @@
...
+      exact congrFun (congrArg X.map (congrArg Quiver.Hom.op this.symm)) x
+    · unfold ev2₂ ι2₂ δ₂
+      simp [← FunctorToTypes.map_comp_apply, ← op_comp]
+      have := δ_comp_δ (n := 0) (i := 0) (j := 0) (by decide)
+      simp at this
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:217]:
```suggestion
      simp only [← FunctorToTypes.map_comp_apply, ← op_comp]
      have := δ_comp_δ (n := 0) (i := 0) (j := 0) (by decide)
      dsimp at this
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 13]
```diff
@@ -0,0 +1,349 @@
...
+    · unfold ev0₂ ι0₂ δ₂
+      simp [← FunctorToTypes.map_comp_apply, ← op_comp]
+    · unfold ev2₂ ι2₂ δ₂
+      simp [← FunctorToTypes.map_comp_apply, ← op_comp]
+    · aesop
+  · simp only [Fin.reduceFinMk]
+    rw [nerve_δ22]
+    fapply ReflPrefunctor.congr_mk₁_map
+    · unfold ev0₂ ι0₂ δ₂
+      simp [← FunctorToTypes.map_comp_apply, ← op_comp]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:233]:
```suggestion
      simp only [← FunctorToTypes.map_comp_apply, ← op_comp]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 14]
```diff
@@ -0,0 +1,349 @@
...
+      have := δ_comp_δ (n := 0) (i := 1) (j := 1) (by decide)
+      simp at this
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:235]:
```suggestion
      dsimp at this
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 15]
```diff
@@ -0,0 +1,349 @@
...
+
+lemma toNerve₂.mk_naturality_σ1i (i : Fin 2) : toNerve₂.mk.naturalityProperty F (σ₂ i) := by
+  apply (cancel_mono (nerve₂.seagull _)).1
+  simp [nerve₂.seagull]
+  congr 1 <;> rw [← map_comp, ← op_comp]
+  · unfold δ2₂
+    rw [← toNerve₂.mk_naturality_δ1i F hyp, ← assoc, ← map_comp, ← op_comp]
+    change toNerve₂.mk.naturalityProperty F (δ₂ 2 ≫ σ₂ i)
+    fin_cases i
+    · show mk.naturalityProperty F (δ₂ 2 ≫ σ₂ 0)
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:249]:
```suggestion
    · dsimp only [Fin.zero_eta]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 16]
```diff
@@ -0,0 +1,349 @@
...
+      rw [δ₂_two_comp_σ₂_zero]
+      exact (toNerve₂.mk.naturalityProperty F).comp_mem _ _
+        (toNerve₂.mk_naturality_σ00 F) (toNerve₂.mk_naturality_δ0i F _)
+    · show mk.naturalityProperty F (δ₂ 2 ≫ σ₂ 1)
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:253]:
```suggestion
    · dsimp only [Fin.mk_one]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 17]
```diff
@@ -0,0 +1,349 @@
...
+end
+
+/-- An alternate version of `toNerve₂.mk`, which constructs a map of 2-truncated simplicial sets
+valued in a nerve  from the underlying ReflPrefunctor, where the central hypothesis is conjugated
+by the isomorphism `nerve₂Adj.NatIso.app C`. -/
+@[simps!] def toNerve₂.mk'
+    (f : SSet.oneTruncation₂.obj X ⟶ SSet.oneTruncation₂.obj (nerveFunctor₂.obj (Cat.of C)))
+    (hyp : (φ : X _[2]₂) →
+      (f ≫ (OneTruncation₂.ofNerve₂.natIso.app (Cat.of C)).hom).map (ev02₂ φ)
+      = CategoryStruct.comp (obj := (Cat.of C))
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:292]:
```suggestion
      (f ≫ (OneTruncation₂.ofNerve₂.natIso.app (Cat.of C)).hom).map (ev02₂ φ) =
      CategoryStruct.comp (obj := (Cat.of C))
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 18]
```diff
@@ -0,0 +1,349 @@
...
+      (whiskerRight (OneTruncation₂.ofNerve₂.natIso).hom _ ≫ ReflQuiv.adj.{u}.counit).app (Cat.of C)
+  · intro x y f g rel
+    cases rel; rename_i φ
+    simp [ReflQuiv.adj, Quot.liftOn, Cat.FreeRefl.quotientFunctor, Quotient.functor,
+      Quiv.adj, Quiv.id_eq_id]
+    simp only [OneTruncation₂.nerveHomEquiv, Fin.isValue, OneTruncation₂.nerveEquiv_apply, op_obj,
+      ComposableArrows.obj', Fin.zero_eta, Nat.reduceAdd, Equiv.coe_fn_mk, eqToHom_refl, comp_id,
+      id_comp]
+    exact φ.map_comp (X := (0 : Fin 3)) (Y := 1) (Z := 2)
+      (homOfLE (by decide)) (homOfLE (by decide))
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:61]:
```suggestion
    obtain ⟨φ⟩ := rel
    simpa [ReflQuiv.adj, Quot.liftOn, Cat.FreeRefl.quotientFunctor, Quotient.functor,
        Quiv.adj, OneTruncation₂.nerveHomEquiv] using
      φ.map_comp (X := 0) (Y := 1) (Z := 2) (homOfLE (by decide)) (homOfLE (by decide))
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 19]
```diff
@@ -0,0 +1,349 @@
...
+  conv => lhs; rw [← Functor.assoc]; lhs; apply (hoFunctor₂_naturality _).symm
+  simp only [Cat.freeRefl_obj_α, ReflQuiv.of_val, comp_obj, Functor.comp_map]
+  rw [← Functor.assoc _ _ F]
+  conv => rhs; lhs; exact (nerve₂Adj.counit.app_eq C)
+  let F' : (Cat.of C) ⟶ (Cat.of D) := F
+  conv => rhs; exact ((whiskerRight OneTruncation₂.ofNerve₂.natIso.hom Cat.freeRefl ≫
+    ReflQuiv.adj.counit).naturality F').symm
+  simp only [app, Cat.comp_eq_comp, Functor.comp_map, Functor.assoc,
+    SSet.Truncated.HomotopyCategory.quotientFunctor]
+  rw [Quotient.lift_spec]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:85]: Could you try to remove the `conv => apply/exact` chunks?

Comment (digama0) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:85]: Could you? If not, I think it should stay as is, maybe with a todo.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 17 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 18 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 6 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 11 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 9 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:147]: The nerve isn't defined until `Nerve.lean`, so I moved this there.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 10 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done and renamed to `nerve.δ22_eq` to match the name of something (related, not quite identical) there.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 19 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:81]: If `erw` is considered as "technical debt" that we should try to avoid, the same should certainly apply also to `conv => apply/exact`.

Comment (digama0) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:81]: Okay. But maybe this PR isn't the right place to be doing this. If you have a concrete alternative suggestion to make, please do so, but if it's just an eww please just bring it up on mathlib's centralized tech debt counter infrastructure instead of asking us to deal with this on a deadline.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:81]:
```lean
/-- Naturality of `nerve₂Adj.counit.app` is proven using `HomotopyCategory.lift_unique'`. -/
theorem nerve₂Adj.counit.naturality {C D : Type u} [SmallCategory C] [SmallCategory D]
    (F : C ⥤ D) :
    (nerveFunctor₂ ⋙ hoFunctor₂).map F ⋙ nerve₂Adj.counit.app D =
      nerve₂Adj.counit.app C ⋙ F := by
  apply HomotopyCategory.lift_unique'
  change ((oneTruncation₂ ⋙ Cat.freeRefl).map (nerveFunctor₂.map _)) ⋙
    HomotopyCategory.quotientFunctor (nerveFunctor₂.obj (Cat.of D)) ⋙ app D = _
  rw [nerve₂Adj.counit.app_eq D]
  conv_rhs => rw [← Functor.assoc, nerve₂Adj.counit.app_eq C]
  exact (whiskerRight OneTruncation₂.ofNerve₂.natIso.{u}.hom Cat.freeRefl ≫
    ReflQuiv.adj.counit).naturality _
```

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Thanks.

File: Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean [hunk 20]
```diff
@@ -56,12 +56,32 @@ def nerveEquiv (C : Type u) [Category.{v} C] : nerve C _⦋0⦌ ≃ C where
...
-end Nerve
+lemma σ_zero_eq_mk_id (x : C) : (nerve C).σ (0 : Fin 1) (.mk₀ x) = .mk₁ (𝟙 x) :=
+  ComposableArrows.ext₁ rfl rfl (by simp; rfl)
+
+section
+open SimplexCategory
+
+variable {X₀ X₁ X₂ : C} (f : X₀ ⟶ X₁) (g : X₁ ⟶ X₂)
+
+theorem δ22_eq : (nerve C).map (δ 2).op (ComposableArrows.mk₂ f g) = ComposableArrows.mk₁ f :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean:73]: Untested, but `nerve C` is a simplicial, so that `(nerve C).δ 2` should work. Same below.

File: Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean [hunk 21]
```diff
@@ -56,12 +56,32 @@ def nerveEquiv (C : Type u) [Category.{v} C] : nerve C _⦋0⦌ ≃ C where
...
 
-namespace Nerve
+namespace nerve
 
 variable {C : Type*} [Category C] {n : ℕ}
 
 lemma δ₀_eq {x : nerve C _⦋n + 1⦌} : (nerve C).δ (0 : Fin (n + 2)) x = x.δ₀ := rfl
 
-end Nerve
+lemma σ_zero_eq_mk_id (x : C) : (nerve C).σ (0 : Fin 1) (.mk₀ x) = .mk₁ (𝟙 x) :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean:65]: I would suggest using the name `σ₀_mk₀_eq`, and similarly below.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 22]
```diff
@@ -0,0 +1,323 @@
...
+
+namespace CategoryTheory
+
+open Category Functor Limits Opposite SimplexCategory Simplicial SSet Nerve Truncated
+universe v u v' u'
+
+section
+
+set_option quotPrecheck false
+local macro:max (priority := high) "[" n:term "]₂" : term =>
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:40]: It would probably be better to use `⦋...⦌` (here and below) as this is soon going to be the notation in the general truncated case.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 23]
```diff
@@ -0,0 +1,323 @@
...
+      φ.map_comp (X := 0) (Y := 1) (Z := 2) (homOfLE (by decide)) (homOfLE (by decide))
+
+@[simp]
+theorem nerve₂Adj.counit.app_eq (C : Type u) [SmallCategory C] :
+    SSet.Truncated.HomotopyCategory.quotientFunctor (nerveFunctor₂.obj (Cat.of C)) ⋙
+      nerve₂Adj.counit.app.{u} C =
+    (whiskerRight OneTruncation₂.ofNerve₂.natIso.hom _ ≫
+      ReflQuiv.adj.{u}.counit).app (Cat.of C) := rfl
+
+/-- Naturality of `nerve₂Adj.counit.app` is proven using `HomotopyCategory.lift_unique'`. -/
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:66]:
```suggestion
/-- The naturality of `nerve₂Adj.counit.app`. -/
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 24]
```diff
@@ -0,0 +1,323 @@
...
+  apply HomotopyCategory.lift_unique'
+  change ((oneTruncation₂ ⋙ Cat.freeRefl).map (nerveFunctor₂.map _)) ⋙
+    HomotopyCategory.quotientFunctor (nerveFunctor₂.obj (Cat.of D)) ⋙ app D = _
+  rw [nerve₂Adj.counit.app_eq D]
+  rw [← Functor.assoc _ _ F, nerve₂Adj.counit.app_eq C]
+  exact (whiskerRight OneTruncation₂.ofNerve₂.natIso.{u}.hom Cat.freeRefl ≫
+    ReflQuiv.adj.counit).naturality _
+
+/-- The counit of `nerve₂Adj.` -/
+def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ (𝟭 Cat) where
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:80]:
```suggestion
def nerve₂Adj.counit : nerveFunctor₂ ⋙ hoFunctor₂.{u} ⟶ 𝟭 Cat where
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 25]
```diff
@@ -0,0 +1,323 @@
...
+      | 1, _, _ => toNerve₂.mk_naturality_δ1i F hyp _)
+    (fun
+      | 0, _, 0 => toNerve₂.mk_naturality_σ00 F
+      | 1, _, _ => toNerve₂.mk_naturality_σ1i F hyp _)
+
+/-- Because nerves are 2-coskeletal, a map of 2-truncated simplicial sets valued in a nerve can be
+recovered from the underlying ReflPrefunctor. -/
+@[simps!]
+def toNerve₂.mk : X ⟶ nerveFunctor₂.obj (Cat.of C) where
+  app := fun n => toNerve₂.mk.app F n.unop
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:254]:
```suggestion
  app n := toNerve₂.mk.app F n.unop
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 26]
```diff
@@ -0,0 +1,323 @@
...
+  Truncated.morphismProperty_eq_top (toNerve₂.mk.naturalityProperty F)
+    (fun
+      | 0, _, _ => toNerve₂.mk_naturality_δ0i F _
+      | 1, _, _ => toNerve₂.mk_naturality_δ1i F hyp _)
+    (fun
+      | 0, _, 0 => toNerve₂.mk_naturality_σ00 F
+      | 1, _, _ => toNerve₂.mk_naturality_σ1i F hyp _)
+
+/-- Because nerves are 2-coskeletal, a map of 2-truncated simplicial sets valued in a nerve can be
+recovered from the underlying ReflPrefunctor. -/
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:251]: The docstring should be clarified: out of context, when we hover on the name of this definition, we should be able to understand most of what this is about. Here, I think it should be something like "The morphism `X ⟶ nerveFunctor₂.obj (Cat.of C)` of 2-truncated simplicial sets that is constructed from ...(which data)... under ...(which assumption).".

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 27]
```diff
@@ -0,0 +1,323 @@
...
+/-- An alternate version of `toNerve₂.mk`, which constructs a map of 2-truncated simplicial sets
+valued in a nerve  from the underlying ReflPrefunctor, where the central hypothesis is conjugated
+by the isomorphism `nerve₂Adj.NatIso.app C`. -/
+@[simps!] def toNerve₂.mk'
+    (f : SSet.oneTruncation₂.obj X ⟶ SSet.oneTruncation₂.obj (nerveFunctor₂.obj (Cat.of C)))
+    (hyp : (φ : X _[2]₂) →
+      (f ≫ (OneTruncation₂.ofNerve₂.natIso.app (Cat.of C)).hom).map (ev02₂ φ) =
+      CategoryStruct.comp (obj := (Cat.of C))
+        ((f ≫ (OneTruncation₂.ofNerve₂.natIso.app (Cat.of C)).hom).map (ev01₂ φ))
+        ((f ≫ (OneTruncation₂.ofNerve₂.natIso.app (Cat.of C)).hom).map (ev12₂ φ)))
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:268]: It seems you could put this definition and the next in a section with the same variables. (`obj := (Cat.of C)` should probably be replaced by `obj := C`.)

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean [hunk 28]
```diff
@@ -0,0 +1,323 @@
...
+      = CategoryStruct.comp (obj := C)
+        ((f ≫ (OneTruncation₂.ofNerve₂.natIso.app (Cat.of C)).hom).map (ev01₂ φ))
+        ((f ≫ (OneTruncation₂.ofNerve₂.natIso.app (Cat.of C)).hom).map (ev12₂ φ))) :
+    oneTruncation₂.map (toNerve₂.mk' f hyp) = f := by
+  refine ReflPrefunctor.ext (fun _ ↦ ComposableArrows.ext₀ rfl)
+    (fun X Y g ↦ eq_of_heq (heq_eqRec_iff_heq.2 <| heq_eqRec_iff_heq.2 ?_))
+  simp [oneTruncation₂]
+  have {A B A' B' : OneTruncation₂ (nerveFunctor₂.obj (Cat.of C))}
+      : A = A' → B = B' → ∀ (x : A ⟶ B) (y : A' ⟶ B'), x.1 = y.1 → HEq x y := by
+    rintro rfl rfl ⟨⟩ ⟨⟩ ⟨⟩; rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:286]: I think you should state a general lemma about refl-quivers, and combine it with the ext lemma for `OneTruncation₂.Hom`.

File: Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean (hunk 20 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean:73]: Done, thanks.

File: Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean (hunk 21 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 22 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 26 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean:254]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 27 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean (hunk 28 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/NerveAdjunction.lean]: Done. See new `Quiver.heq_of_homOfEq_ext`.

File: Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean [hunk 29]
```diff
@@ -56,12 +56,31 @@ def nerveEquiv (C : Type u) [Category.{v} C] : nerve C _⦋0⦌ ≃ C where
...
 variable {C : Type*} [Category C] {n : ℕ}
 
 lemma δ₀_eq {x : nerve C _⦋n + 1⦌} : (nerve C).δ (0 : Fin (n + 2)) x = x.δ₀ := rfl
 
-end Nerve
+lemma σ₀_mk₀_eq (x : C) : (nerve C).σ (0 : Fin 1) (.mk₀ x) = .mk₁ (𝟙 x) :=
+  ComposableArrows.ext₁ rfl rfl (by simp; rfl)
+
+section
+open SimplexCategory
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Nerve.lean:69]:
```suggestion
```

**Comment by joelriou** [comment]
Thanks!

bors d+

**Comment by joelriou** [comment]
bors d=[emilyriehl,digama0]
